US04150137
A mixture of 3.3 g of 2-(p-isobutylphenyl)propionic acid sodium salt, 2.3 g of dimethylaminoethyl chloride and 30 ml of benzene was refluxed for 12 hours. A solid mass produced was filtered off, and the benzene was distilled away from the filtrate under reduced pressure to leave an oily residue. This redidue was distilled under reduced pressure to give 3.5 g of 2-(p-isobutylphenyl)propionic acid dimethylaminoethyl ester as a colorless oil, boiling at 133°-136° C./1 mmHg. Analysis-Calculated for C17H27NO2 : C, 73.61; H, 9.81; N, 5.05. Found: C, 73.50; H, 9.72; N, 5.02. The infrared spectrum showed strong C=O absorption at 1730 cm-1 characteristic for ester. Mass spectrum: parent ion 277 m/e.

reactant | 2-(p-isobutylphenyl)propionic acid sodium salt | 3.3 g | [Na+].C(C(C)C)C1=CC=C(C=C1)C(C(=O)[O-])C
reactant | dimethylaminoethyl chloride | 2.3 g | CN(C)CCCl | C4H10ClN
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
product | 2-(p-isobutylphenyl)propionic acid dimethylaminoethyl ester | 3.5 g | CN(C)CCOC(C(C)C1=CC=C(C=C1)CC(C)C)=O | C17H27NO2
